US04538003
To 10.0 g (68.0 mmoles) of o-dichlorobenzene, 0.10 g (0.13 mmoles) of [NitriphosCl]PF6 in 125 mL of ether at 0° C. was added 35 mL (70 mmoles) of 2M benzylMgCl in ether. The mixture was refluxed for 2 days. After the usual workup, the residue was distilled to give 1.616 g (11.0 mmoles, bp: 27° to 35° C./0.1 mm) of o-dichlorobenzene and 4.509 g (bp: 80° to 94° C./0.1 mm) of a clear liquid. The 1H NMR spectrum indicated this fraction to be a 6.9:1 mixture of 1-chloro-2-benzylbenzene and bibenzyl (19.7 mmole of 1-chloro-2- benzylbenzene and 2.86 mmole of bibenzyl). A 35% yield of 1-chloro-2-benzylbenzene based on reacted o-dichlorobenzene was obtained. 1H NMR (80 MHz, CDCl3): 1-chloro-2-benzylbenzene: a singlet at δ4.1 and aromatic H's at δ7.2; bibenzyl: a singlet at δ2.9 and aromatic H's at δ7.2. GC/MS confirmed the presence of 1-chloro-2-benzylbenzene (M+=202) and bibenzyl (M+=182). The residue that did not distill over was chromatographed on silica gel eluted with 10% EtOAc/hexane to give 1.139 g (4.4 mmoles, 7% based on reacted o-dichlorobenzene) of 1,2-dibenzylbenzene.

reactant | 1-chloro-2-benzylbenzene | ClC1=C(C=CC=C1)CC1=CC=CC=C1 | C13H11Cl
reactant | bibenzyl | C1(=CC=CC=C1)CCC1=CC=CC=C1 | C14H14
solvent | o-dichlorobenzene | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 1,2-dibenzylbenzene | 4.4 mmoles, 1.139 g, 7% | C(C1=CC=CC=C1)C1=C(C=CC=C1)CC1=CC=CC=C1 | C20H18
